US05128355
Part A: Preparation of 2-Butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloro-5-[(trifluoromethylsulfonamido)methyl]imidazole
Triflic anhydride (0.21 mL, 1.25 mmol, 1.1 eg) was slowly added to a pyridine (20 mL) solution of the chromium salt of 5-aminomethyl-2-butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloroimidazole (0.50 g, 1.1 mmol, 1.0 eq) at 0° C. The solution was allowed to warm to room temperature. After 1.5 hour, 1.5 equivalents of triflic anhydride were added at 0°. After an additional 4 hours at room temperature, water (200 mL) was added and the pH adjusted to 5. The aqueous was extracted with ethyl acetate (3×100 mL) and the organic layers dried (MgSO4) and concentrated to yield 150 mg of a yellow oil which was used as is for the subsequent hydrolysis step. NMR (200 MHz, CDCl3) δ 8.33 (bm, 1H); 7.96 (d, 1H, J=7Hz); 7.64 (d, 2H, J=10Hz); 7.56 (t, 1H, J=7Hz); 7.48 (t, 1H, J=7Hz); 7.28 (d, 1H, J=7Hz); 6.92 (d, 2H, J=10Hz); 5.21 (s, 2H); 4.14 (s, 2H); 3.17 (s, 3H); 2.48 (t, 2H, J=7Hz); 1.55 (t of t, 2H, J=7,7Hz); 1.24 (m, 2H); 0.79 (t, 3H, J=7Hz).

reactant | Triflic anhydride | 1.25 mmol, 0.21 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
reactant | 5-aminomethyl-2-butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloroimidazole | 1.1 mmol, 0.50 g, 1.0 eq | NCC1=C(N=C(N1CC1=CC=C(C=C1)C(C1=C(C=CC=C1)C(=O)OC)=O)CCCC)Cl | C24H26ClN3O3
reactant | triflic anhydride | 1.5 equivalents | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
catalyst | chromium | [Cr] | Cr
solvent | water | 200 mL | O | H2O
product | 2-Butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloro-5-[(trifluoromethylsulfonamido)methyl]imidazole | 150 mg | C(CCC)C=1N(C(=C(N1)Cl)CNS(=O)(=O)C(F)(F)F)CC1=CC=C(C=C1)C(C1=C(C=CC=C1)C(=O)OC)=O | C25H25ClF3N3O5S
